US05246937
A solution of 2-amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)purine (0.21 g, 0.9 mmol), 4-dimethylaminopyridine (10 mg) and propionic anhydride (0.64 ml, 5.0 mmol) in N,N-dimethylformamide (5 ml) was stirred for 16 hours. The solvent was removed and the residue was partitioned between aqueous sodium bicarbonate and chloroform. The organic layer was dried (magnesium sulphate) and the solvent was removed. The residue was purified by column chromatography on silica gel eluting with chloroform-methanol (20:1) to give 2-amino-9-(4-propionyloxy-3-propionyloxymethylbut-1-yl)purine (160 mg, 51%) which was recrystallised from ethyl acetate-hexane (115 mg, 37%), m.p. 77.5°-79°; λmax (EtOH) 222 (27,300), 244 (5,020), and 309 (7,110)nm; δmax (KBr) 3390, 3210, 1735, 1650, 1605, 1580, 1525, 1475, and 1425 cm-1 ; δH (CDCl3) 1.14 (6H, t, J 7.6 Hz, 2×CH3), 1.96 (3H, m, 2'-H and 3'-H), 2.34 (4H, q, J 7.6 Hz, 2×CH2CH3), 4.15 (4H, d, J 5.5 Hz, 2×CH2OOC), 4.21 (2H, t, J 7.0 Hz, 1'-H), 5.05 (2H, s, D2O exchangeable, 2-NH2), 7.77 (1H, s, 8-H), and 8.69 (1H, s, 6-H); (Observed M+ 349.1752. C16H23N5O4 requires 349.1751).

reactant | 2-amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)purine | 0.9 mmol, 0.21 g | NC1=NC=C2N=CN(C2=N1)CCC(CO)CO | C10H15N5O2
reactant | propionic anhydride | 5.0 mmol, 0.64 ml | C(CC)(=O)OC(CC)=O | C6H10O3
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-amino-9-(4-propionyloxy-3-propionyloxymethylbut-1-yl)purine | 160 mg, 51% | NC1=NC=C2N=CN(C2=N1)CCC(COC(CC)=O)COC(CC)=O | C16H23N5O4
